US07495103B2
A solution of 2-(2,4-dinitrophenylthio)-acetic acid (2.3 g, 9 mmol) and tin (II) chloride dihydrate (22.6 g, 0.1 mol) in ethanol (30 mL) was refluxed overnight. After removal of the solvent under reduced pressure, the residual slurry was diluted with water (100 mL) and basified with 10% Na2CO3 solution to pH 8. The resulting suspension was extracted with ethyl acetate (3×100 mL). The ethyl acetate extract was washed with water and brine, dried over Na2SO4, and concentrated. The residue was washed with CH2Cl2 to yield 6-amino-2H-benzo[b][1,4]thiazin-3(4H)-one (DC-7) as a yellow powder (1 g, 52%). 1H NMR (DMSO-d6) δ 10.24 (s. 1H), 6.88 (d, 1H, J=6 Hz), 6.19-6.21 (m, 2H), 5.15 (s, 2H), 3.28 (s, 2H); ESI-MS 181.1 m/z (MH+).

reactant | 2-(2,4-dinitrophenylthio)-acetic acid | 9 mmol, 2.3 g | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])SCC(=O)O | C8H6N2O6S
reactant | tin (II) chloride dihydrate | 0.1 mol, 22.6 g | O.O.[Sn](Cl)Cl
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | 6-amino-2H-benzo[b][1,4]thiazin-3(4H)-one | 1 g, 52% | NC1=CC2=C(SCC(N2)=O)C=C1 | C8H8N2OS
